US05187192
To a solution of 3-(3-(4-fluorophenoxy)phenyl)cyclobutanone oxime from above, in ethanol (50 mL) was added borane.pyridine (2.06 g, 22.2 mmol) and the resulting solution was stirred for 30 min. 6N aqueous HCl (5.05 mL, 30.3 mmol) was then added dropwise and the reaction was stirred for 30 min. It was then neutralized by the addition of 2N aqueous NaOH and the ethanol evaporated in vacuo. The resulting residue was further diluted with brine to a volume of approximately 50 mL and extracted with ethyl acetate (3×50 mL). The organics were combined, dried over MgSO4 and concentrated to afford 3-(3-(4-flurophenoxy)phenyl)-1-cyclobutylhydroxylamine which was used as is.

reactant | 3-(3-(4-fluorophenoxy)phenyl)cyclobutanone oxime | FC1=CC=C(OC=2C=C(C=CC2)C2CC(C2)=NO)C=C1 | C16H14FNO2
reactant | borane | B | BH3
reactant | pyridine | 22.2 mmol, 2.06 g | N1=CC=CC=C1 | C5H5N
reactant | HCl | 30.3 mmol, 6N, 5.05 mL | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(3-(4-flurophenoxy)phenyl)-1-cyclobutylhydroxylamine | FC1=CC=C(OC=2C=C(C=CC2)C2CC(C2)NO)C=C1 | C16H16FNO2
